Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
lower GI bleeding
 
Major Surgical or Invasive Procedure:
Colonoscopy on ___ 

 
History of Present Illness:
Mr. ___ is a ___ male with history of CAD s/p 4 
stents on eliquis for ___ years without recent changes in dosing 
as interpreted red blood and clots per rectum. He reports the 
bleeding began around 4 AM on ___ (had 4 episodes). He denies 
lightheadedness, chest pain, abdominal pain. He reports some 
nausea and one episode of vomiting.

 He reports the emesis was nonbloody emesis with acute eaten. He 
denies fever and chills. He denies prior episodes of blood in 
his stool. He denies trauma to the abdomen. He was intially seen 
at ___ history with stay notable for ___ more bowel 
movements about 1 L each of bright red blood. Recent bowel 
movements have been bright red without clots. 

CBC at outside hospital was significant for hemoglobin of 18.6. 
INR 1.15 and PTT 27.9. He reports that his blood is "thick ". 
Patient was given 1 L normal saline. At that hospital was 
concern for ischemic colitis given elevated H&H. Second liter of 
normal saline was given. CMP unremarkable. EKG at ___ 
___ showed sinus tachycardia at 105 with normal axis, 
multiple rolls, PR 123, QTC 15, no ST depression or elevation, 
no T-wave inversions.

In the ED, initial vitals: 98.2 98 112/69 18 94% RA   
Labs were significant for WBC 10.8, H/H 15.7/47.2 (previously 
___ @ ___, BMP notable for bicarb 17, No AG (Cr 0.7). 

CTA showed diverticulosis (see below for full read)

In the ED, he received: nothing (received 2L NS @ ___ 

Vitals prior to transfer: HR: 108 BP:154/87  RR: 18 Sp02:97% RA  

 
Currently, he is asymptomatic and feels well. He states the only 
change in his medication was that he was taking an antibiotic 
for a dental procedure (unsure of name), but was told there was 
no interaction with apixaban. 

 
Past Medical History:
HTN
TIA in ___ at ___ in ___
Atrial Fibrillation 
Appendenctomy/Partial Colectomy in ___ 
 
Social History:
___
Family History:
Non-contributory. 
 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: Afebrile 165 / 77 L Sitting 55 18 94 RA  
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal  

DISCHARGE PHYSICAL EXAM: 
========================
VS: 98.2 144/76 74 18 94 RA 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: Generally CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal 
 
Pertinent Results:
ADMISSION LABS: 
===============
___ 04:20PM BLOOD WBC-10.8* RBC-5.10 Hgb-15.7 Hct-47.2 
MCV-93 MCH-30.8 MCHC-33.3 RDW-14.3 RDWSD-48.8* Plt ___
___ 08:52PM BLOOD WBC-10.1* RBC-5.53 Hgb-16.5 Hct-50.8 
MCV-92 MCH-29.8 MCHC-32.5 RDW-14.2 RDWSD-47.7* Plt ___
___ 04:20PM BLOOD Neuts-86.5* Lymphs-5.5* Monos-7.0 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-9.32* AbsLymp-0.59* 
AbsMono-0.75 AbsEos-0.04 AbsBaso-0.02
___ 04:20PM BLOOD Plt ___
___ 08:52PM BLOOD Plt ___
___ 04:20PM BLOOD Glucose-104* UreaN-15 Creat-0.7 Na-141 
K-4.6 Cl-107 HCO3-17* AnGap-22*
___ 09:05PM BLOOD Lactate-1.2

PERTINENT LABS: 
===============
___ 04:20PM BLOOD WBC-10.8* RBC-5.10 Hgb-15.7 Hct-47.2 
MCV-93 MCH-30.8 MCHC-33.3 RDW-14.3 RDWSD-48.8* Plt ___
___ 08:52PM BLOOD WBC-10.1* RBC-5.53 Hgb-16.5 Hct-50.8 
MCV-92 MCH-29.8 MCHC-32.5 RDW-14.2 RDWSD-47.7* Plt ___
___ 07:20AM BLOOD WBC-7.9 RBC-4.61 Hgb-14.4 Hct-42.4 MCV-92 
MCH-31.2 MCHC-34.0 RDW-14.4 RDWSD-48.0* Plt ___
___ 05:25PM BLOOD WBC-5.2 RBC-4.77 Hgb-14.3 Hct-44.0 MCV-92 
MCH-30.0 MCHC-32.5 RDW-14.1 RDWSD-47.7* Plt ___
___ 07:18AM BLOOD WBC-5.1 RBC-4.56* Hgb-13.5* Hct-41.7 
MCV-91 MCH-29.6 MCHC-32.4 RDW-14.1 RDWSD-47.3* Plt ___
___ 06:35AM BLOOD WBC-5.7 RBC-4.62 Hgb-14.0 Hct-41.9 MCV-91 
MCH-30.3 MCHC-33.4 RDW-13.9 RDWSD-45.9 Plt ___

PERTINENT IMAGING/STUDIES: 
==========================
___ CT A/P @ ___

FINDINGS: No comparison exam. Abdominal aorta shows mild
atherosclerotic irregularity with no aneurysmal dilatation or
stenosis. The celiac axis, superior and inferior mesenteric 
arteries
have normal caliber and opacification. 2 renal arteries are 
present
bilaterally, and are unremarkable. The common, internal and 
external
iliac arteries are well opacified and unremarkable, aside from 
mild
chronic irregularity. No vascular occlusion or aneurysmal 
dilatation
identified.
 
Coronary artery calcifications. No cardiac enlargement or
decompensation. Lung bases clear. No pleural process.
 
Fatty infiltration of the liver with no focal abnormality.
Cholelithiasis without cholecystitis. No biliary dilatation. The
pancreas, spleen, adrenal glands and IVC are unremarkable. 2.3 
cm mid
lateral right renal simple cyst. No concerning renal lesion. No
hydronephrosis or calculus.
 
The urinary bladder is smooth in contour. Prostate gland upper 
normal
in size.
 
No bowel dilatation or inflammatory focus. Sigmoid 
diverticulosis
without diverticulitis. No abnormal colonic mucosal enhancement
pattern. No obvious contrast extravasation within the bowel or 
bowel
vascular lesion demonstrated.
 
Thoracolumbar reverse S scoliosis. No acute osseous abnormality.
 
CONCLUSION: Mild atherosclerotic disease of the abdominal aorta 
and
major branches, with no aneurysmal dilatation or vascular 
occlusion.

No acute abdominal or pelvic process. Sigmoid diverticulosis 
without
diverticulitis or colitis. No bowel vascular lesion identified. 
Other
findings as detailed.

___ COLONOSCOPY: 

Impression: 
Diverticulosis of the sigmoid colon
Grade 1 internal hemorrhoids
Otherwise normal colonoscopy to cecum 

Recommendations: 
- No old or fresh blood noted in colon.
- No medium or large mass or lesions noted. However, the 
colonoscopy prep was inadequate and colonoscopy should be 
repeated within ___ months. 

DISCHARGE LABS
===============
___ 06:35AM BLOOD WBC-5.7 RBC-4.62 Hgb-14.0 Hct-41.9 MCV-91 
MCH-30.3 MCHC-33.4 RDW-13.9 RDWSD-45.9 Plt ___
___ 06:35AM BLOOD Plt ___
___ 06:35AM BLOOD ___ PTT-32.7 ___
___ 06:35AM BLOOD Glucose-100 UreaN-8 Creat-0.6 Na-138 
K-3.5 Cl-103 HCO3-24 AnGap-15
___ 06:35AM BLOOD Calcium-8.2* Phos-3.1 Mg-2.___ w/ CAD s/p MI in ___ with 4 stents, afib on apixaban who 
presented to ___ w/ BRBPR. CT was consistent with 
diverticulosis, but did not show a bleed at that time. He was 
hemodynamically stable through his admission with stable H/H 
requiring no transfusions, only getting IVF. He had a 
colonoscopy on ___ which confirmed sigmoid diverticulosis and 
did not show a new or old bleed. He was restarted on his 
apixaban and discharged home with plan for follow-up colonoscopy 
in 2 months. 

ACTIVE ISSUES: 
===============

#Lower Gastrointestinal Bleed: CT with diverticulosis at 
___.  Prior colonoscopy per records had no polyps and 
sigmoid diverticulosis. He had multiple bowel movements on ___ 
without any signs of hemodynamic instability including 
tachycardia or orthostatic hypotension. He felt well throughout 
his admission. Colonoscopy on ___ showed sigmoid 
diverticulosis as well with poor prep and no new or old blood. 
Apixaban restarted on the evening of ___.  He was observed 
overnight and able to discharged on ___. 

CHRONIC ISSUES: 
===============
#Atrial Fibrillation: CHADSVAsC: 4 (TIA, HTN)Restarted apixaban 
as above.Restarted metoprolol XL (fractionated during 
admission). 

#HTN: Restarted ramipril and amlodipine after clinical stability 
on ___. 

#BPH: Continued tamsulosin with holding parameters.

#CAD: MI in ___, s/p 4 stents. Continued aspirin.

Transitional Issues: 

[ ] follow-up colonoscopy by ___. 
[ ] Restarted all home medications on discharge (held apixaban, 
anti-hypertensives while actively bleeding. 
[ ] Follow-up with GI (___) within 6 weeks. 

# CODE STATUS: Full 
# CONTACT: ___ (wife) ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. Ramipril 10 mg PO BID 
3. Metoprolol Succinate XL 100 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. amLODIPine 2.5 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  amLODIPine 2.5 mg PO DAILY  
2.  Apixaban 5 mg PO BID  
3.  Aspirin 81 mg PO DAILY  
4.  Metoprolol Succinate XL 100 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  
6.  Ramipril 10 mg PO BID  
7.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Lower Gastrointestinal Bleed
Sigmoid Diverticulosis

Secondary: 
Atrial Fibrillation
Hypertension
Myocardial Infarction in ___
Transient Ischemic Attack in ___. 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___, 

You were admitted with some lower gastrointestinal bleeding. An 
initial CT scan showed that it was likely due to sigmoid 
diverticulosis. We did a colonoscopy which did not show any new 
or old bleeding and confirmed the diagnosis of sigmoid 
diverticulosis.  You will need a repeat colonoscopy in 2 months. 


We otherwise continued all of your home medications on 
discharge. 

Please follow-up with Dr. ___ 6 weeks and with Dr. 
___ 2 weeks. 

It was a pleasure taking care of you, 

-Your ___ Team
 
Followup Instructions:
___